US05298625
A. (Z)-4-chloro-3-ethoxy-2-butenoic acid, ethyl ester
A mixture of ethyl-4-chloroacetoacetate (5.0 g), triethyl orthoformate (4.5 g) and concentrated sulfuric acid (2 drops) was stirred at room temperature for 48 hours under a nitrogen atmosphere. The excess triethyl orthoformate was removed on a rotavap and the residue was dissolved in toluene (~20 mL) and a small amount of p-toluene sulfonic acid was added and refuxed for three hours. The mixture was diluted with ethyl acetate (~20 mL) and washed with aqueous sodium bicarbonate and brine; dried over anhydrous sodium sulphate and the solvent removed on a rotavap to obtain the title compound.

reactant | ethyl-4-chloroacetoacetate | 5.0 g | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
reactant | triethyl orthoformate | 4.5 g | C(OCC)(OCC)OCC | C7H16O3
catalyst | sulfuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | (Z)-4-chloro-3-ethoxy-2-butenoic acid, ethyl ester | ClC/C(=C/C(=O)OCC)/OCC | C8H13ClO3
